US03946045
Preparation of N-(1,3-Dioxolan-5-ylmethyl)-2,4,6-trimethylaniline
2,4,6-Trimethylaniline (0.3 mole), 5-chloromethyl-1,3-dioxolane (0.3 mole), potassium carbonate (0.3 mole) and tetraethylammonium chloride (2 grams) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at reflux for a period of 8 hours. After this time the mixture is filtered and distilled to yield the desired product N-(1,3-dioxolan-5-ylmethyl)-2,4,6-trimethylaniline.

reactant | 2,4,6-Trimethylaniline | 0.3 mole | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | 5-chloromethyl-1,3-dioxolane | 0.3 mole | ClCC1COCO1 | C4H7ClO2
reactant | potassium carbonate | 0.3 mole | C([O-])([O-])=O.[K+].[K+]
catalyst | tetraethylammonium chloride | 2 grams | [Cl-].C(C)[N+](CC)(CC)CC
product | N-(1,3-dioxolan-5-ylmethyl)-2,4,6-trimethylaniline | O1COCC1CNC1=C(C=C(C=C1C)C)C | C13H19NO2
